US09102669B2
6-fluoro-1-(1-(6-(6-methoxypyridin-3-yl)pyridazin-3-yl)piperidin-4-yl)indoline (Compound #37)
The title compound was prepared following the procedure as described in Example 1, Method A, STEP 4, reacting 2-methoxypyridine-5-boronic acid and 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline.

reactant | 2-methoxypyridine-5-boronic acid | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | ClC1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C17H18ClFN4
product | 6-fluoro-1-(1-(6-(6-methoxypyridin-3-yl)pyridazin-3-yl)piperidin-4-yl)indoline | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C=1N=NC(=CC1)C=1C=NC(=CC1)OC | C23H24FN5O
